US09145429B2
A mixture of methyl-2-bromo-5-hydroxybenzoate (1.0 g, 4.33 mmol), benzyl bromide (0.62 mL, 5.19 mmol), and K2CO3 (780 mg, 5.63 mmol) in anhydrous DMF (8 mL) was stirred at room temperature for 21 h under nitrogen atmosphere. The mixture was poured into equal volumes of water and EtOAc (1:1, 20 mL), then the layers were separated. The aqueous layer was further extracted with equal volume of EtOAc before the organic layers were combined and dried over anhydrous Na2SO4 and filtered. The solvent was removed under reduced pressure. The residue was purified by silica gel column using Combiflash to give methyl 5-(benzyloxy)-2-bromobenzoate (1.39 g, 100%).

reactant | methyl-2-bromo-5-hydroxybenzoate | 4.33 mmol, 1.0 g | COC(C1=C(C=CC(=C1)O)Br)=O | C8H7BrO3
reactant | benzyl bromide | 5.19 mmol, 0.62 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 5.63 mmol, 780 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
product | methyl 5-(benzyloxy)-2-bromobenzoate | 1.39 g, 100% | C(C1=CC=CC=C1)OC=1C=CC(=C(C(=O)OC)C1)Br | C15H13BrO3
